* FILE: MMI_NAND3B.sp


* SPICE netlist for "MMI_NAND3B" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_NAND3B in0 in1 in2 out 
M_0 out in0 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_1_1 out in1 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_2_1 out in2 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_3_1 out in0 net_1 gnd n W='2.31*1u' L=ln_min ad='arean(2.31,sdd)' 
+ as='arean(2.31,sdd)' pd='perin(2.31,sdd)' ps='perin(2.31,sdd)'
M_4_1 net_1 in1 net_2 gnd n W='2.31*1u' L=ln_min ad='arean(2.31,sdd)' 
+ as='arean(2.31,sdd)' pd='perin(2.31,sdd)' ps='perin(2.31,sdd)'
M_5_1 net_2 in2 gnd gnd n W='2.31*1u' L=ln_min ad='arean(2.31,sdd)' 
+ as='arean(2.31,sdd)' pd='perin(2.31,sdd)' ps='perin(2.31,sdd)'
*.ENDS	$ MMI_NAND3B

