* FILE: MMI_NOR2A.sp


* SPICE netlist for "MMI_NOR2A" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_NOR2A in0 in1 out 
M_0 out in0 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_1_1 out in1 gnd gnd n W='0.385*1u' L=ln_min ad='arean(0.385,sdd)' 
+ as='arean(0.385,sdd)' pd='perin(0.385,sdd)' ps='perin(0.385,sdd)'
M_2_1 out in0 net_1 vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
M_3_1 net_1 in1 vdd vdd p W='1.54*1u' L=lp_min ad='areap(1.54,sdd)' 
+ as='areap(1.54,sdd)' pd='perip(1.54,sdd)' ps='perip(1.54,sdd)'
*.ENDS	$ MMI_NOR2A

