* FILE: MMI_NOR2D.sp


* SPICE netlist for "MMI_NOR2D" (generated by MMI_SUE4.2.16)

*.SUBCKT MMI_NOR2D in0 in1 out 
M_0 out in1 gnd gnd n W='3.08*1u' L=ln_min ad='arean(3.08,sdd)' 
+ as='arean(3.08,sdd)' pd='perin(3.08,sdd)' ps='perin(3.08,sdd)'
M_1_1 out in0 gnd gnd n W='3.08*1u' L=ln_min ad='arean(3.08,sdd)' 
+ as='arean(3.08,sdd)' pd='perin(3.08,sdd)' ps='perin(3.08,sdd)'
M_2_1 net_1 in1 vdd vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
M_3_1 net_2 in1 vdd vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
M_4_1 out in0 net_1 vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
M_5_1 out in0 net_2 vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
M_6_1 out in0 net_3 vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
M_7_1 net_3 in1 vdd vdd p W='4.105*1u' L=lp_min ad='areap(4.105,sdd)' 
+ as='areap(4.105,sdd)' pd='perip(4.105,sdd)' ps='perip(4.105,sdd)'
*.ENDS	$ MMI_NOR2D

